US04867903
Into a sufficiently nitrogen-substituted vessel, 0.40 g (3.0 mmol) of (-)-2-fluoroheptanol and 1.00 g (13 mmol) of dry pyridine were charged andstirred under cooling with ice for 30 min. The solution was charged with 0.69 g (3.6 mmol) of p-toluenesulfonic acid chloride and further stirred for 5 hours. After the reaction, 10 ml of 1N-HCl was added, followed by two times of extraction with 10 ml of methylene chloride. Then, the extract liquid was once washed with 10 ml of distilled water. The resultant methylene chloride solution was dried with anhydrous sodium sulfate added in an appropriate amount, and the solvent was distilled off to obtain 0.59 g (2.0 mmol) of (+)-2-fluoroheptyl p-toluenesulfonate at a yield of 66%.

reactant | (-)-2-fluoroheptanol | 3.0 mmol, 0.40 g | FC(CO)CCCCC | C7H15FO
reactant | pyridine | 13 mmol, 1.00 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonic acid chloride | 3.6 mmol, 0.69 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | Cl | ClH
product | (+)-2-fluoroheptyl p-toluenesulfonate | 2.0 mmol, 0.59 g, yield of 66% | C1(=CC=C(C=C1)S(=O)(=O)OCC(CCCCC)F)C | C14H21FO3S
